US04027026
2-(2-Aminoethoxymethyl)pyridine is caused to react with methyl isothiocyanate (1.21 g.) in isopropyl alcohol (25 ml.) by the procedure of Example 1 to give N-methyl-N'-[2-(2-pyridylmethoxy)ethyl]-thiourea.

reactant | 2-(2-Aminoethoxymethyl)pyridine | NCCOCC1=NC=CC=C1 | C8H12N2O
reactant | methyl isothiocyanate | 1.21 g | CN=C=S | C2H3NS
solvent | isopropyl alcohol | 25 ml | C(C)(C)O | C3H8O
product | N-methyl-N'-[2-(2-pyridylmethoxy)ethyl]-thiourea | CNC(=S)NCCOCC1=NC=CC=C1 | C10H15N3OS
